US08957203B2
Step 1: Preparation of 4-cyclopropylisoquinoline
To a solution of 4-bromoisoquinoline (0.5 g, 2.403 mmol) and cyclopropylboronic acid (0.248 g, 2.88 mmol) in Toluene/water (11 ml, 10:1) was added phosphoric acid, potassium salt (1.02 g, 4.81 mmol) followed by addition of tricyclohexylphosphine (0.067 g, 0.240 mmol) and palladium(II) acetate (0.027 g, 0.120 mmol). The reaction mass was heated 100° C. and stirred for overnight. The reaction mass was diluted with water and extracted with ethyl acetate. The organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography (10% ethyl acetate in pet ether) to get desired compound (0.4 g, 93%) as an oil. 1H NMR (400 MHz, CDCl3): δ ppm 9.12(s, 1H), 8.34-8.32 (d, J=8 Hz, 1H), 8.31 (s, 1H), 7.98-7.96 (d, J=8 Hz, 1H), 7.76 (t, J=4 Hz, 1H), 7.62 (t, J=4 Hz, 1H), 2.23 (s, 1H), 1.11 (t, J=4 Hz, 2H), 0.82 (t, J=8 Hz, 2H).

reactant | 4-bromoisoquinoline | 2.403 mmol, 0.5 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | cyclopropylboronic acid | 2.88 mmol, 0.248 g | C1(CC1)B(O)O | C3H7BO2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | potassium | 4.81 mmol, 1.02 g | [K] | K
reactant | tricyclohexylphosphine | 0.240 mmol, 0.067 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | Toluene water | 11 ml | C1(=CC=CC=C1)C.O
solvent | water | O | H2O
catalyst | palladium(II) acetate | 0.120 mmol, 0.027 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-cyclopropylisoquinoline | 0.4 g, 93% | C1(CC1)C1=CN=CC2=CC=CC=C12 | C12H11N
